US07608633B2
B. tert-Butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate
0.325 g (1.50 mmol) tert-butylindole-2-carboxylate is dissolved in 15 ml absolute DMSO, mixed with 0.184 g (1.64 mmol) potassium-tert-butylate and stirred at 110° C. for 15 min. A solution of 0.576 g (1.50 mmol) [1-bromo-3-(4-octylphenoxy)propan-2-yl]acetate in 15 ml absolute DMSO is added drop-wise. Following 30 minutes of heating at 110° C. and subsequent cooling, hydrolysis is carried out in saturated NaCl solution. Four extractions with diethyl ether, combination of the organic phases, concentration to half the volume on the rotary evaporator, three wash steps with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product a yellow oil which is purified on silica gel by means of flash column chromatography (flow agent: petroleum ether/ethyl acetate 99:1) and yields the product as a colorless oil.

reactant | tert-butylindole-2-carboxylate | 1.50 mmol, 0.325 g | C(C)(C)(C)OC(=O)C=1NC2=CC=CC=C2C1 | C13H15NO2
reactant | [1-bromo-3-(4-octylphenoxy)propan-2-yl]acetate | 1.50 mmol, 0.576 g | BrCC(COC1=CC=C(C=C1)CCCCCCCC)CC(=O)[O-]
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | NaCl | [Na+].[Cl-]
product | tert-Butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate | C(C)(C)(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(COC1=CC=C(C=C1)CCCCCCCC)OC(C)=O | C32H43NO5
